US04444766
Instead of octadecyl bromide, there can also be used octadecyl mercaptan which is then reacted with methyl 3-bromopropionate or added on to methyl acrylate with sodium methylate catalysis. In both cases, methyl 3-octadecylthiopropionate is obtained.

reactant | octadecyl bromide | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | octadecyl mercaptan | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | methyl 3-bromopropionate | BrCCC(=O)OC | C4H7BrO2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | sodium methylate | C[O-].[Na+]
product | methyl 3-octadecylthiopropionate | C(CCCCCCCCCCCCCCCCC)CCC(=S)OC | C22H44OS
